US04477369
To metallic Mg (3.6 g, 0.148 mol) was dropwise added a solution of 4-bromobiphenyl (34.5 g, 0.148 mol) dissolved in tetrahydrofuran (100 ml), and the reaction temperature was kept at 35° C. in nitrogen current. After 2 hours, Mg dissolved to form a uniform solution, to which was dropwise added a solution of 4-(trans-4-pentylcyclohexyl)cyclohexanone (29.6 g, 0.118 mol) in tetrahydrofuran (100 ml) at 30° C. or lower under cooling, followed by refluxing for 2 hours, adding 3N hydrochloric acid (200 ml), extracting with toluene (1 l), washing with water and distilling off the solvent under reduced pressure to obtain a residue which was 4-[4-(trans-4-pentylcyclohexyl)cyclohexan-1-ol]-biphenyl. To this material was added potassium hydrogen sulfate (7 g) and the material was dehydrated at 200° C. in nitrogen current, followed by cooling, dissolving it in toluene (1 l), filtering off potassium hydrogen sulfate, washing the toluene layer with water, distilling off the solvent under reduced pressure and recrystallizing from toluene to obtain crystals of 4-[4-(trans-4-pentylcyclohexyl)cyclohexen-1-yl]-biphenyl. To this material (14.0 g, 0.0362 mol) were added ethanol (300 ml) and Raney Ni (4.0 g), followed by reducing it under 5 Kg/cm2 at 80° C. for 3 hours in an autoclave, filtering off the catalyst, washing with toluene and recrystallizing to obtain 4-[trans-4-(trans-4-pentylcyclohexyl)cyclohexyl]biphenyl. This material (2.0 g, 0.0052 mol) was dissolved in CS2 (100 ml) and further anhydrous AlCl3 (1.0 g, 0.0077 mol) was suspended, followed by dropwise adding acetyl chloride (0.42 g, 0.0054 mol) while the temperature was kept at 0°~10° C. After 1.5 hour, the temperature was gradually raised and reflux was carried out for 2 hours, followed by cooling, pouring the contents in 6N hydrochloric acid (500 ml), filtering the resulting solids and recrystallizing the solids from ethanol to obtain 4-acetyl-4'-[trans-4-(trans-4-pentylcyclohexyl)cyclohexyl]biphenyl. This material (1.7 g, 0.0039 mol) was dissolved in ethylene glycol (200 ml), and KOH (0.49 g) and hydrated hydrazine (0.52 g) were added, followed by refluxing for 4 hours, distilling off ethylene glycol, extracting with toluene (200 ml), washing with 6N hydrochloric acid, further washing with water till the washing water became neutral, distilling off toluene under reduced pressure and recrystallizing from fresh toluene to obtain an objective product, 4-ethyl-4'-[trans-4-(trans-4-pentylcyclohexyl)cyclohexyl]biphenyl (0.2 g), which had a C-Sm point of 68.0° C., a Sm-N point of 290° C. and a N-I point of 300° C. or higher.

reactant | 4-bromobiphenyl | 0.148 mol, 34.5 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 4-(trans-4-pentylcyclohexyl)cyclohexanone | 0.118 mol, 29.6 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C17H30O
reactant | hydrochloric acid | 3N, 200 ml | Cl | ClH
reactant | potassium hydrogen sulfate | 7 g | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(trans-4-pentylcyclohexyl)cyclohexen-1-yl]-biphenyl | C(CCCC)[C@@H]1CC[C@H](CC1)C1CC=C(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C29H38
